US05280047
4-(4-octylphenyl)-3E-buten-2-one
Triphenylphosporanylidene-2-propanone (2.9q, 0.o092 moles) and para-octylbenzaldehyde (2.0g, 0.0092 moles) in toluene (50ml) was heated to reflux for 2 hrs. and then stirred at room temperature for 64 hrs. The solution was poured into a solution of ethyl ether (100 ml) and hexane (100 ml). The white solid was removed by filtration and the filtrate concentrated by rotary evaporator to an oil. The title product was purified by silica gel chromatography. The structure assignment was supported by NMR, infrared spectra and elemental analysis (258.4).

reactant | para-octylbenzaldehyde | 0.0092 moles, 2.0g | C(CCCCCCC)C1=CC=C(C=O)C=C1 | C15H22O
reactant | ethyl ether | 100 ml | C(C)OCC | C4H10O
reactant | hexane | 100 ml | CCCCCC | C6H14
solvent | toluene | 50ml | C1(=CC=CC=C1)C | C7H8
product | 4-(4-octylphenyl)-3E-buten-2-one | C(CCCCCCC)C1=CC=C(C=C1)/C=C/C(C)=O | C18H26O
